US07951814B2
Step 1: 5-Nitro-1,2,3,4-tetrahydro-2,4-quinazolinedione:
A mixture of 2-amino-6-nitro-benzoic acid (60 g, 329 mmol) and urea (257.3 g, 4285 mmol) in acetic acid (1.65 lit.) was heated to reflux for 24 h. The acetic acid was evaporated under reduced pressure and the residue obtained was diluted with water (2.5 lit). The solid product separated out was filtered and washed with water. The product was collected and dried in an air oven to give 44 g of the product as a yellow solid; 1H NMR (δ ppm, DMSO-d6, 300 MHz): 11.58 (br. s, 1H); 11.55 (br.s, 1H); 7.76 (t, J=8.4, 1H); 7.41 (d, J=7.8, 1H); 7.32 (d, J=8.4, 1H).

reactant | 2-amino-6-nitro-benzoic acid | 329 mmol, 60 g | NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H6N2O4
reactant | urea | 4285 mmol, 257.3 g | NC(=O)N | CH4N2O
solvent | acetic acid | 1.65 lit. | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-Nitro-1,2,3,4-tetrahydro-2,4-quinazolinedione | 44 g | [N+](=O)([O-])C1=C2C(NC(NC2=CC=C1)=O)=O | C8H5N3O4
